US07538123B2
(7) 3-Allyl-2-hydroxy-4-methoxy-N-methylbenzamide
3.94 g of AD-mix-β was added to a mixture consisting of 0.97 g of 8-allyl-7-methoxy-3-methyl-2H-1,3-benzoxazin-2,4(3H)-dione, 30 ml of tert-butanol, and 20 ml of water. The obtained mixture was stirred at room temperature overnight. Thereafter, 4.73 g of sodium sulfite was added to the reaction solution, and the obtained mixture was stirred for 50 minutes. The reaction solution was adjusted to be approximately pH 5 with addition of 1 N hydrochloric acid, and the reaction mixture was then extracted with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure. 8 ml of methanol and 4 ml of tetrahydrofuran were added to the obtained residue, and then, 1.44 ml of a 5 N sodium hydroxide aqueous solution was added thereto. The reaction mixture was then stirred for 10 minutes. The reaction solution was cooled on ice, and then 1 N hydrochloric acid was added thereto, so as to adjust pH to be approximately 6. Ethyl acetate was added to the reaction solution for extraction. The obtained organic layer was washed with a saturated sodium chloride solution and then dried over anhydrous magnesium sulfate. After removing the drying agent by filtration, the organic layer was concentrated under a reduced pressure, so as to obtain 0.81 g of the subject compound. It was observed as a mixture of two conformers in NMR. The ratio was approximately 2:1. The following measurement results are indicated with the number of hydrogen atoms such that the sum of conformers becomes a single molecule.

reactant | AD-mix-β | 3.94 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 8-allyl-7-methoxy-3-methyl-2H-1,3-benzoxazin-2,4(3H)-dione | 0.97 g | C(C=C)C1=C(C=CC=2C(N(C(OC21)=O)C)=O)OC | C13H13NO4
reactant | sodium sulfite | 4.73 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | tert-butanol | 30 ml | C(C)(C)(C)O | C4H10O
product | 3-Allyl-2-hydroxy-4-methoxy-N-methylbenzamide | 0.81 g | C(C=C)C=1C(=C(C(=O)NC)C=CC1OC)O | C12H15NO3
